### PR TITLE
feat: iframe tactic and input/output handling for IPM synthesis

### LINKED ISSUE #358: Port iFrame
See Iris Rocq documentation at https://gitlab.mpi-sws.org/iris/iris/-/blob/master/docs/proof_mode.md

### PR DESCRIPTION
**Pull request by MackieLoeffel**
## Description

Implement the iframe tactic and make it available in specialization patterns and cases patterns.

Additional implement input / output handling to IPM synthesis roughly in the style of Hint Mode in Rocq. See the comment on `ParamKind` for a detailed description:
```
The parameters of a class declared with `ipm_class` are categorized into the following categories:

1. in: This is the default for a parameter when not annotated in another way.
2. out: These are parameters marked with `outParam`. These parameters must be mvars when starting typeclass search.
3. semiOut: These are parameters marked with `semiOutParam`. The preceding parameter must be of type `InOut`. The value of the `InOut` parameter decides whether the `semiOut` parameter is treated as an input or an output.
4. uncheckedIn: These are parameters marked with `uncheckedInParam`. These behave like `in` parameters, but allow mvars to match terms (see below).
5. inout: Parameters of type `InOut`, must appear before semiOut parameters (see above).

The following constraints apply to the parameters: (In the following, semiOut parameters are treated as inputs if the preceding `InOut` is `in` and as outputs if the `InOut` is `out`.)
1. semiOut parameters must have a preceding `InOut` parameter.
2. For each synthesis problem, all output parameters must be mvars.
3. When an input parameter is a mvar, it is not considered to match an instance which does not have an mvar at the top-level. This is to prevent accidentally instantiating mvars. Note that this only applies for mvars the top-level (matching the behavior of Hint Mode : ! in Rocq), since this is the simplest version to implement and catches most (all?) of the cases.
```

## Checklist
* [x] My code follows the mathlib [naming](https://leanprover-community.github.io/contribute/naming.html) and [code style](https://leanprover-community.github.io/contribute/style.html) conventions
* [x] I have updated `PORTING.md` as appropriate
* [x] I have added my name to the `authors` section of any appropriate files

### CODE REVIEW

**Comment by lzy0505** [comment]
Amazing work! I’ll review it this week.

File: Iris/Iris/ProofMode/Patterns/SpecPattern.lean [hunk 1]
```diff
@@ -1,28 +1,76 @@
...
 syntax ident : specPat
 syntax "%" term:max : specPat
-syntax "[" ident* "]" optional(" as " ident) : specPat
+syntax "[" frameIdent* "]" optional(" as " ident) : specPat
+syntax "[" "-" frameIdent* "]" optional(" as " ident) : specPat
+syntax "[>" frameIdent* "]" optional(" as " ident) : specPat
+syntax "[>" "-" frameIdent* "]" optional(" as " ident) : specPat
+syntax "[#" frameIdent* "]" optional(" as " ident) : specPat
+syntax "[" "$" "]" : specPat
+syntax "[#" "$" "]" : specPat
```
Comment (lzy0505) [inline Iris/Iris/ProofMode/Patterns/SpecPattern.lean:32]: `[> $]` is missing?

**Comment by MackieLoeffel** [comment]
@lzy0505 When do you think you will be able to have a look at this? I think it would be great to get this PR in relatively soon if possible since basically all other PRs to the proof mode are blocked on the changes in this PR.

**Comment by lzy0505** [comment]
@MackieLoeffel Working on this now. Should be able to finish by the end of today. Sorry for the delay.

**Comment by MackieLoeffel** [comment]
No worries, thank you for looking into this!

File: Iris/Iris/ProofMode/SynthInstanceAttr.lean [hunk 2]
```diff
@@ -9,24 +9,172 @@ public import Qq
...
+def isUncheckedInParam (e : Expr) : Bool :=
+  e.isAppOfArity ``uncheckedInParam 1 || (e.isOutParam && e.appArg!.isAppOfArity ``uncheckedInParam 1)
+
+/--
+The parameters of a class declared with `ipm_class` are categorized into the following categories:
+
+1. in: This is the default for a parameter when not annotated in another way.
+2. out: These are parameters marked with `outParam`. These parameters must be mvars when starting typeclass search.
+3. semiOut: These are parameters marked with `semiOutParam`. The preceding parameter must be of type `InOut`. The value of the `InOut` parameter decides whether the `semiOut` parameter is treated as an input or an output.
+4. uncheckedIn: These are parameters marked with `uncheckedInParam`. These behave like `in` parameters, but allow mvars to match terms (see below).
```
Comment (lzy0505) [inline Iris/Iris/ProofMode/SynthInstanceAttr.lean]: I feel like using Lean's `semiOutParam` and `outParam` as markers is a bit confusing here.
Because `semiOutParam` has very different meaning in Lean's standard synthesis algorithm.

But I also feel like it is intended, if IIUC: it makes the fallback to Lean's algorithm work. 
Is it true? I don't know whether there is a better solution.

File: Iris/Iris/ProofMode/SynthInstance.lean [hunk 3]
```diff
@@ -28,6 +34,9 @@ the IPM synthesis needs to be explicitly invoked via the functions in this file.
 The `ipm_backtrack` attribute on an instance tells the IPM synthesis to backtrack if instance instance can be applied, but
 its preconditions fail to synthesize. This is not enabled by default to avoid accidental exponential blow-ups.
 
+The `ipm_tactic_instance` attribute on a function of type `SynthTactic` declares a tactic that is used to solve synthesis problems for
+a given pattern. These tactics can call ipm synthesis recursively. See Tests/Instances.lean for examples.
+
 The `InOut` type in Classes.lean is used to dynamically determine, which parameters are inputs and which are outputs. IPM synthesis
 ignores `outParam` and `semiOutParam` annotations, but it is still recommended to add these annotations as documentation.
```
Comment (lzy0505) [inline Iris/Iris/ProofMode/SynthInstance.lean:43]: I removed the comments on InOut here, as I think those are outdated now.

File: Iris/Iris/ProofMode/Classes.lean [hunk 4]
```diff
@@ -140,7 +131,7 @@ class IntoPure [BI PROP] (P : PROP) (φ : outParam Prop) where
 export IntoPure (into_pure)
 
 @[ipm_class]
-class FromPure [BI PROP] (a : outParam Bool) (P : PROP) (φ : outParam Prop) where
+class FromPure [BI PROP] (a : outParam Bool) (P : PROP) (_ : InOut) (φ : semiOutParam Prop) where
```
Comment (lzy0505) [inline Iris/Iris/ProofMode/Classes.lean]: Per point 2 of the docstring of ParamKind, `a` must be an mvar as it is marked with `outParam`. But there are places where it is actually provided. 
The following example can trigger the bug.
```
example [BI PROP] [BIAffine PROP] (φ1 φ2 : Prop) (Q : PROP) :
    (⌜φ1⌝ → ⌜φ2⌝ : PROP) ⊢ Q -∗ Q := by
  iintro Himp
  iintro HQ
  ipure Himp
  iexact HQ
```
I fixed it by marking `a` as a `semiOutParam`.

**Review by lzy0505 — COMMENTED** [review]
This is an excellent PR.

Regarding the iframe implementation, I haven’t checked if there are more missing features than those marked with TODO but the existing code looks great!

The additional in/out part took me some time. In general, I like the idea and think the code can be merged. However, I’m not sure if the implementation approach is the best. Currently, checking an IPM class’s markings requires examining all potential invocations of the IPM synthesis algorithm for the class. I tried to do this for a few classes while understanding the code and believe I found a mistake in the `FromPure` marking.  See my inline comments. I didn’t have time to check all but I think such bugs can be caught, reported, and fixed as more IPM proofs are developed. I don't know how hard it is, but I feel like a more static approach is desirable. 
I also feel like this part of the code needs more comments, and perhaps some renaming to avoid confusion (e.g. my inline comments).

In the commit I pushed, I made many stylistic changes, added some comments, added some tests, fixed the `FromPure` bug and corrected an emoji display issue in synthInstance traces. Feel free to revert/edit any of my changes.

**Review by lzy0505 — APPROVED** [review]

File: Iris/Iris/ProofMode/Classes.lean [hunk 5]
```diff
@@ -38,147 +41,153 @@ proposition can be derived. Type classes with the prefix `Into` are used to gene
 used to indicate that certain propositions should be intuitionistic. -/
 
 @[ipm_class]
-class FromImp [BI PROP] (P : PROP) (Q1 Q2 : outParam PROP) where
+class FromImp {PROP} [BI PROP] (P : PROP) (Q1 Q2 : outParam $ PROP) where
```
Comment (MackieLoeffel) [inline Iris/Iris/ProofMode/Classes.lean:44]: @lzy0505 Do you have a strong opinion on using `outParam $ PROP` instead of `outParam PROP`? The seem equivalent to me and I am wondering why to use `$` if it is not necessary.

Comment (lzy0505) [reply Iris/Iris/ProofMode/Classes.lean:44]: Previously, it was a bit randomly used, so I tried to make it more consistent for the markers. 
I'm slightly in favour of using the dollar sign everywhere because it makes it more obvious that the thing on the left is a marker. Feel free to revert if you don't like.

File: Iris/Iris/ProofMode/Patterns/SpecPattern.lean (hunk 1 above)
Comment (MackieLoeffel) [reply Iris/Iris/ProofMode/Patterns/SpecPattern.lean:32]: It will be added by https://github.com/leanprover-community/iris-lean/pull/379/changes/4a8bd2c26fe1c9f3979c8b2c13d37a01b3112457#diff-0cab7e3ee3b99ecf00bc6bbc7e1c81006adf7257321e1f5ab751888d9b9f94ca

File: Iris/Iris/ProofMode/SynthInstanceAttr.lean (hunk 2 above)
Comment (MackieLoeffel) [reply Iris/Iris/ProofMode/SynthInstanceAttr.lean]: We are still using Lean's synthesis order checking and for this is is useful to use `semiOutParam` and `outParam`. (The synthesis order checking is not perfect for IPM classes, but I still find it useful.) I will add a comment about this.

File: Iris/Iris/ProofMode/Classes.lean (hunk 4 above)
Comment (MackieLoeffel) [reply Iris/Iris/ProofMode/Classes.lean]: Indeed, there was a problem with `FromPure`, but I don't think making `a` a semiOutParam is the right solution. Instead, I tweaked the instances such that they work with `outParam`.

File: Iris/Iris/ProofMode/Classes.lean (hunk 5 above)
Comment (MackieLoeffel) [reply Iris/Iris/ProofMode/Classes.lean:44]: I see. I don't have a strong opinion and at least your version is consistent, so we can stick with that.

File: Iris/Iris/ProofMode/Classes.lean (hunk 4 above)
Comment (lzy0505) [reply Iris/Iris/ProofMode/Classes.lean]: Can you elaborate on why it is not?

Comment (MackieLoeffel) [reply Iris/Iris/ProofMode/Classes.lean]: The version with the semiOutParam fails the following tests:
```
/-- Tests `ipure` with implication containing pure -/
example [BI PROP] (Q : PROP) : <affine> (⌜φ1⌝ ∧ ⌜φ2⌝ → ⌜φ3⌝)  ⊢ Q -∗ Q := by
  iintro Hφ
  iintro HQ
  ipure Hφ
  iexact HQ

/-- Tests `ipure_intro` with wand containing pure and affine lhs -/
example [BI PROP] : ⊢@{PROP} (<affine> ⌜φ2⌝ -∗ emp) := by
  ipure_intro
  intro _; trivial

/-- Tests `ipure_intro` with wand containing pure and absorbing rhs -/
example [BI PROP] : ⊢@{PROP} (⌜φ2⌝ -∗ <absorb> emp) := by
  ipure_intro
  intro _; trivial
```

This is because instances like
```
instance fromPure_pure_and (a1 a2 : Bool) (φ1 φ2 : Prop) [BI PROP] (P1 P2 : PROP)
    [h1 : FromPure .out a1 P1 io φ1] [h2 : FromPure .out a2 P2 io φ2] :
    FromPure ioA (a1 || a2) iprop(P1 ∧ P2) io (φ1 ∧ φ2) where
```
don't work for the `ioA = .in` case where the input is `false` because `false` and `(a1 || a2)` don't match syntactically and thus the instance is pruned by the discrimination tree. There were also some other instances I had to fix. I am currently waiting on Claude to do the proofs on the new instances and then I can push the changes.

**Comment by MackieLoeffel** [comment]
Thanks for the review and all the cleanup!

> Currently, checking an IPM class’s markings requires examining all potential invocations of the IPM synthesis algorithm for the class. [...] I don't know how hard it is, but I feel like a more static approach is desirable.

I agree that the current approach can still lead to bugs where the input / output moding of an instance is incorrect, but it is only detected when one tries to use the instances. Having a static checker for this would be great, but this would be some work and probably it is best to do this in a separate PR.

File: Iris/Iris/ProofMode/Classes.lean (hunk 4 above)
Comment (MackieLoeffel) [reply Iris/Iris/ProofMode/Classes.lean]: The changes are in https://github.com/leanprover-community/iris-lean/pull/378/changes/05b1a38fa7ccef58aad3d07337bec53141ad749d

Comment (lzy0505) [reply Iris/Iris/ProofMode/Classes.lean]: I see. Thanks for the explanation!

**Comment by lzy0505** [comment]
@MackieLoeffel Yes, I agree such a static checker should belong to a separate PR. I think this one is ready for merging!

**Comment by MackieLoeffel** [comment]
Great, thanks again for the review! Merging...
